US04038396
A mixture of 800 mg. of 2-benzyloxazolo[ 4,5-b]pyridine, 2.5 g. of potassium permanganate, 35 ml. of water and 6 drops of 2.5 N sodium hydroxide solution was heated at 50°-55° C. for 3 hours. After cooling, sulfuric acid was added to about pH 6 and sufficient sodium bisulfite was added to remove the manganese dioxide. The crystalline precipitate remaining was collected and recrystallized from ethylacetate to give 2-benzoyloxazolo[ 4,5-b]pyridine, m.p. 151°-153° C.

reactant | 2-benzyloxazolo[ 4,5-b]pyridine | C(C1=CC=CC=C1)C=1OC=2C(=NC=CC2)N1 | C13H10N2O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
catalyst | sodium hydroxide | 2.5 N, 6 drops | [OH-].[Na+]
solvent | water | O | H2O
product | 2-benzoyloxazolo[ 4,5-b]pyridine | C(C1=CC=CC=C1)(=O)C=1OC=2C(=NC=CC2)N1 | C13H8N2O2
